US05929067
4-[N'-Methyl-N'-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(1-methyl-indol-3-yl)-pentanoic acid N-phenyl-amide
A mixture consisting of 43.2 mg of 4-[N'-methyl-N'-(3,5-bis-trifluoromethyl-benzoyl)-amino]-5-(1-methyl-indol-3-yl)-pentanoic acid, 8.9 mg of aniline, 36.65 mg of propanephosphonic acid anhydride, 60 μl of triethylamine and 1.5 ml of methylene chloride is left to stand at room temperature for 16 hours. 0.5 ml of 1N potassium carbonate solution is then added and the mixture is shaken vigorously. After separation of the phases, the organic phase is separated off and concentrated by evaporation. In this way the title compound is obtained in the form of a white foam. Rf value=0.547 (ethyl acetate).

reactant | 4-[N'-methyl-N'-(3,5-bis-trifluoromethyl-benzoyl)-amino]-5-(1-methyl-indol-3-yl)-pentanoic acid | 43.2 mg | CN(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C(CCC(=O)O)CC1=CN(C2=CC=CC=C12)C | C24H22F6N2O3
reactant | aniline | 8.9 mg | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 60 μl | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 1N, 0.5 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
product | 4-[N'-Methyl-N'-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(1-methyl-indol-3-yl)-pentanoic acid N-phenyl-amide | C1(=CC=CC=C1)NC(CCC(CC1=CN(C2=CC=CC=C12)C)N(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)=O | C30H27F6N3O2
